US06506762B1
D. [2-(Cyclopentylamino)ethyl][2-methyl-9-(2,4,6-trimethylphenyl)pyrimidino[4,5-b]indolizin-4-yl]amine
Treat a solution of (2-aminoethyl)[2-methyl-9-(2,4,6-trimethylphenyl)pyrimidino[4,5-b]indolizin-4-yl]amine (0.07 g, 0.19 mmol), cyclopentanone (0.02 mL, 0.19 mmol) and acetic acid (0.01 mL, 0.19 mmol) in dry dichloroethane (3 mL) with sodium triacetoxyborohydride (0.06 g, 0.27 mmol) and stir at ambient temperature for 14 h. Dilute the resulting mixture with CH2Cl2 (20 mL) and wash with saturated aq NaCl (50 mL). Dry the organic portion over Na2SO4, filter, and concentrate under reduced pressure, Purify by preparative TLC (10% MeOH in CH2Cl2 with 0.5% ammonium hydroxide) to obtain the title compound as a yellow solid.

reactant | (2-aminoethyl)[2-methyl-9-(2,4,6-trimethylphenyl)pyrimidino[4,5-b]indolizin-4-yl]amine | 0.19 mmol, 0.07 g | NCCNC1=NC(=NC=2C=C3C(=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C22H25N5
reactant | cyclopentanone | 0.19 mmol, 0.02 mL | C1(CCCC1)=O | C5H8O
reactant | acetic acid | 0.19 mmol, 0.01 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.27 mmol, 0.06 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | [2-(Cyclopentylamino)ethyl][2-methyl-9-(2,4,6-trimethylphenyl)pyrimidino[4,5-b]indolizin-4-yl]amine | C1(CCCC1)NCCNC1=NC(=NC=2C=C3C(=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C27H33N5
